Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-5.18218623432
[H:3].[O:1]=[C:2][O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.33132197038
[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])[H:9])=[C:10]([H:11])[H:12],-6.310569908300001
[C:5]([H:6])[O:7][H:8].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],-5.4431936
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8],2.3454186099700003
[C:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2][C:3][O:4][H:5].[C:6]([H:7])([H:8])[O:9][H:10],1.71581223869
[H:10].[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]#[C:8][H:9]>>[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],-4.04369760498
[O:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[O:1][C:2][C:3],6.4181396647
[H:1][C:2][O:3][C:4]([H:5])([H:6])[H:7]>>[H:1][C:2][O:3][C:4]([H:5])[H:6].[H:7],4.44358206809
[H:1][C:2][H:3].[O:4]=[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.74104481961
[C:1][C@:2]1([C:3]([H:4])=[C:5][H:6])[O:8][C:9]1([H:10])[H:11].[H:7]>>[C:1][C@:2]1([C:3]([H:4])=[C:5]([H:6])[H:7])[O:8][C:9]1([H:10])[H:11],-5.06184117863
[H:8].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:9][H:10]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],-1.90391522417
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-1.06431562912
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3],4.153266339719998
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],6.96394530872
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11]>>[H:11].[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9][H:10],4.08357558546
[C:7]([H:8])([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])[O:5][H:6]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-1.19853054078
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:8]=[C:9]([H:10])[H:11].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7],1.22460288264
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3],5.5265759586800005
[H:1][C:2]#[C:3]/[C:5]([H:6])=[C:7]/[O:8][C:9]([H:10])([H:11])[H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][C:9]([H:10])([H:11])[H:12],-1.94919943624
[H:11].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-1.9786370680400005
[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:14]>>[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-1.97452595232
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.5994143884
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[O:11][H:12].[H:7],1.99751319263
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[O:3][H:4],4.87052516199
[C:13]([H:14])[H:15].[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-5.25475530246
[O:1].[O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.8206804351300003
[C:4]([H:5])=[C:8]([H:9])[H:10].[O:1][O:2][C:3]#[C:6][H:7]>>[O:1][O:2][C:3](=[C:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-2.5638820840400003
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.30010369862
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.80349525929
